US05604229
2-Amino-1,3-diacetoxy-2-octadecylpropane (1.0 g) was dissolved in 50 ml of dry ether and 425 mg of N,N-dimethylaniline and 500 mg of pentanoyl chloride were added thereto. The mixture was stirred at room temperature under a nitrogen atmosphere for 6 hours. The reaction mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried and the resultant mixture was concentrated. The concentrate was purified by silica gel column chromatography using hexane-ethyl acetate (5:1→2:1) as an eluent to give 1.036 g of colorless, oily 1,3-diacetoxy-2-octadecyl-2-(N-pentanoylamino)propane. IRν max (CHCl3): 3450, 3400, 2920, 2850, 1740, 1680, 1520, 1460, 1380, 1240, 1020 cm-1 1 H-NMR (CDCl3 /TMS) δ: 0.879 (3H, t, J=6.8 Hz), 0.918 (3H, t, J=7.4 Hz), 1.251 (34H, m), 1.6 (4H, m), 2.078 (6H, s), 2.150 (2H, t, J=7.2 Hz), 4.271 (2H, d, J=11.6 Hz), 4.330 (2H, d, J=11.6 Hz), 5.599 (1H, s)

reactant | 2-Amino-1,3-diacetoxy-2-octadecylpropane | 1.0 g | NC(COC(C)=O)(COC(C)=O)CCCCCCCCCCCCCCCCCC | C25H49NO4
reactant | N,N-dimethylaniline | 425 mg | CN(C1=CC=CC=C1)C | C8H11N
reactant | pentanoyl chloride | 500 mg | C(CCCC)(=O)Cl | C5H9ClO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-diacetoxy-2-octadecyl-2-(N-pentanoylamino)propane | C(C)(=O)OCC(COC(C)=O)(NC(CCCC)=O)CCCCCCCCCCCCCCCCCC | C30H57NO5
